US05719141
a) 2(R,S)-Methoxymethyl-3,4-dihydro-2H1,4-benzothiazine
3 ml of a 25% trifluoroacetic acid solution in methylene chloride are added to 435 mg of 4-tert-butoxycarbonyl-2(R,S)-methoxymethyl-3,4-dihydro-2H1,4-benzothiazine at 0° C. and the mixture is stirred for 3 h. The reaction mixture is concentrated and the residue is chromatographed over 30 g of silica gel with a 99:1 mixture of methylene chloride and methanol, This gives the title compound: Rf (99:1 mixture of methylene chloride/methanol)=0.67.

reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | 4-tert-butoxycarbonyl-2(R,S)-methoxymethyl-3,4-dihydro-2H1,4-benzothiazine | 435 mg | C(C)(C)(C)OC(=O)N1CC(SC2=C1C=CC=C2)COC | C15H21NO3S
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2(R,S)-Methoxymethyl-3,4-dihydro-2H1,4-benzothiazine | COCC1SC2=C(NC1)C=CC=C2 | C10H13NOS
